US09422267B2
To a stirred solution of (3S)-tert-butyl 3-(1-(4-(3-isopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamido)pyrrolidine-1-carboxylate (350 mg, 0.667 mmol) in DCM (3.5 mL) was added TFA (0.15 ml, 2.003 mmol) dropwise under nitrogen atmosphere at 0° C. The resultant mixture was stirred at RT for 16 h. The reaction mixture was concentrated under reduced pressure. The crude obtained was purified by reverse phase HPLC. The stereoisomers obtained were separated by chiral HPLC to afford 21 mg of (R)-1-(4-(3-isopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N—((S)-pyrrolidin-3-yl)pyrrolidine-2-carboxamide. 1H NMR (400 MHz, CDCl3) δ (ppm) 1.30 (d, 6H), 1.94-2.15 (m, 6H), 2.60-2.77 (m, 4H), 2.79-3.10 (m, 6H), 3.58-3.66 (m, 1H), 3.70-3.80 (m, 1H), 4.05-4.13 (m, 1H), 4.58 (dd, 1H), 6.38 (s, 1H), 6.79 (s, 1H). The other diastereomers were prepared using appropriate chiral starting materials.

reactant | (3S)-tert-butyl 3-(1-(4-(3-isopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamido)pyrrolidine-1-carboxylate | 0.667 mmol, 350 mg | C(C)(C)C1=NNC(=C1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)CCC2 | C27H40N8O3
reactant | TFA | 2.003 mmol, 0.15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(3-isopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N—((S)-pyrrolidin-3-yl)pyrrolidine-2-carboxamide | 21 mg | C(C)(C)C1=NNC(=C1)NC=1C2=C(N=C(N1)N1[C@H](CCC1)C(=O)N[C@@H]1CNCC1)CCC2 | C22H32N8O
